### ISSUE TITLE
Performance regression in LNSym tactic elaboration

### ISSUE THREAD

**Issue by govereau** [leanprover/lean4#14329]
### Description

While update the [LNSym project](https://github.com/leanprover/LNSym) to the most recent version of Lean, I observed a regression in tactic evaluation starting with version 4.30.0. The issue only effects one theorem in version 4.30 (`gcm_gmult_v8_program_run_27`), but spreads to more theorems in 4.31.0. The smallest example is the `popcount32_sym_meets_spec` theorem---I believe it is the same issue across all effected theorems.

### Context

The `upgrade-lean-versions` branch in the LNSym project contains an upgrade from Lean version nightly-2024-10-07 to 4.31.0, with one commit per version. The code that demonstrates this issue can be cloned from github, and
different Lean versions can be tested by checking out the appropriate commit on the `upgrade-lean-versions` branch.

### Steps to Reproduce

```
git clone --branch upgrade-lean-versions --single-branch \
  https://github.com/leanprover/LNSym.git

cd LNSym
# test v 4.31
lake build Proofs.Popcount32

# test v4.30
git checkout 'HEAD^'
lake build Proofs.Popcount32

# etc...
```

**Observed behavior:**
| Lean release | peak / outcome |
|---|---|
| nightly-2024-10-07 | 1.44 GB, 58 s ✅ |
| v4.14 – v4.29 | ~1.3–1.8 GB ✅ (flat, verified each release) |
| **v4.30.0** | **~42 GB, exit 137 (OOM)** |
| v4.31.0 | ~41 GB, exit 137 (OOM) |

### Versions

Lean version 4.30.0 and 4.31.0
OS: Linux (Ubuntu, x86-64)

### Additional Information

See below comment.

### Impact

Using `sym_n` over vector-heavy programs of even modest length (≈15+ SIMD steps) becomes impossible to elaborate on a 58 GB machine. There is no user-side workaround: chunking the simulation (`sym_n k; sym_aggregate; …` or `sym_n k at s_k`) does **not** help, because the theorem's own conclusion references the fully-aggregated final state, so the large term must be built regardless of how the simulation is sliced.

**Comment by govereau** [comment]
I found some additional information on this issue. I bisected the recent commits to Lean and found that the issue occurred after:

 > **`2e06fb5008` — PR #12233, "perf: fuse fvar substitution into instantiateMVars".**

The symptom surfaced in a symbolic-simulation tactic (`sym_n` in [LNSym](https://github.com/leanprover/LNSym)) that composes `N` per-step proofs, each built by `apply`ing a 3-ary lemma to three prior-step subgoals. I rebuilt v4.31.0 with `2e06fb5008` reverted and confirmed:

| `N` | v4.29.0 | v4.30.0 | v4.31.0 | v4.32.0 | v4.31 + `2e06fb5008` reverted |
|-----|---------|---------|---------|---------|-------------------------|
| 4   | 1.17 ms | —       | 0.83 ms | —       | 1.04 ms |
| 6   | 1.67 ms | —       | 10.8 ms | 10.1 ms | 1.3 ms |
| 8   | **2.08 ms** | **283 ms** | 273 ms | 270 ms | **2.12 ms** |
| 10  | **3.16 ms** | **8.62 s** | 8.55 s | 8.32 s | **2.96 ms** |
| 12  | 5.53 ms | OOM     | OOM     | OOM     | 4.11 ms |
| 27  | ~25 ms  | OOM     | OOM     | OOM     | **17.4 ms** |

I used a variant of the `popcount32` proof to simplify the example:
```
import Arm.Exec
import Arm.Util
import Arm.Syntax
import Arm.Memory.SeparateAutomation
import Tactics.Sym
import Tactics.Aggregate
import Tactics.StepThms

open BitVec ArmState

def popcount32_program : Program :=
  def_program
  [(0x4005b4#64 , 0xd10043ff#32), -- sub sp, sp, #0x10
   (0x4005b8#64 , 0xb9000fe0#32), -- str w0, [sp, #12]
   (0x4005bc#64 , 0xb9400fe0#32), -- ldr w0, [sp, #12]
   (0x4005c0#64 , 0x53017c00#32), -- lsr w0, w0, #1
   (0x4005c4#64 , 0x1200f000#32), -- and w0, w0, #0x55555555
   (0x4005c8#64 , 0xb9400fe1#32), -- ldr w1, [sp, #12]
   (0x4005cc#64 , 0x4b000020#32), -- sub w0, w1, w0
   (0x4005d0#64 , 0xb9000fe0#32), -- str w0, [sp, #12]
   (0x4005d4#64 , 0xb9400fe0#32), -- ldr w0, [sp, #12]
   (0x4005d8#64 , 0x1200e401#32), -- and w1, w0, #0x33333333
   (0x4005dc#64 , 0xb9400fe0#32), -- ldr w0, [sp, #12]
   (0x4005e0#64 , 0x53027c00#32), -- lsr w0, w0, #2
   (0x4005e4#64 , 0x1200e400#32), -- and w0, w0, #0x33333333
   (0x4005e8#64 , 0x0b000020#32), -- add w0, w1, w0
   (0x4005ec#64 , 0xb9000fe0#32), -- str w0, [sp, #12]
   (0x4005f0#64 , 0xb9400fe0#32), -- ldr w0, [sp, #12]
   (0x4005f4#64 , 0x53047c01#32), -- lsr w1, w0, #4
   (0x4005f8#64 , 0xb9400fe0#32), -- ldr w0, [sp, #12]
   (0x4005fc#64 , 0x0b000020#32), -- add w0, w1, w0
   (0x400600#64 , 0x1200cc01#32), -- and w1, w0, #0xf0f0f0f
   (0x400604#64 , 0x3200c3e0#32), -- mov w0, #0x1010101
   (0x400608#64 , 0x1b007c20#32), -- mul w0, w1, w0
   (0x40060c#64 , 0x53187c00#32), -- lsr w0, w0, #24
   (0x400610#64 , 0xb9000fe0#32), -- str w0, [sp, #12]
   (0x400614#64 , 0xb9400fe0#32), -- ldr w0, [sp, #12]
   (0x400618#64 , 0x910043ff#32), -- add sp, sp, #0x10
   (0x40061c#64 , 0xd65f03c0#32)] -- ret

#genStepEqTheorems popcount32_program

open BitVec ArmState
set_option maxHeartbeats 0 in
set_option profiler true in
theorem probe (s0 sf : ArmState)
    (h_s0_pc         : read_pc s0 = 0x4005b4#64)
    (h_s0_program    : s0.program = popcount32_program)
    (h_s0_sp_aligned : CheckSPAlignment s0)
    (h_s0_err        : read_err s0 = StateError.None)
    (h_run           : sf = run N s0) :
    read_err sf = StateError.None := by
  simp_all only [state_simp_rules, -h_run]
  sym_n N
  all_goals sorry
```

It looks like this is a rewrite---perhaps this optimization is planned for the new version? @nomeata

**Comment by nomeata** [comment]
Thanks for the bisection. It would be good to know more about how the tactic uses mvars and instantiateMVars. It could be that using `instantiateMVars` on resulting proof terms more or less often in your tactic will help. Is there a chance or a more minimal and self-contained reproduer?

**Comment by nomeata** [comment]
*This comment was written by Claude (Anthropic's AI assistant), which @nomeata used to investigate this issue; posted on its behalf.*

I investigated this regression, and there is now a candidate fix in #14514. Since @govereau bisected it to #12233 already, here is a concrete account of what that change does to this workload, including the actual metavariable graph that `instantiateMVars` chokes on.

### Where the time goes

It is not the tactic: at N=10 the profiler reports 28ms of `tactic execution`, but 7.4s of `instantiate metavars` and another 6.5s of `share common exprs`. The blowup happens in the *single* `instantiateMVars` call on the final proof term when the declaration is elaborated. Measuring the result of that call directly (counting pointer-distinct `Expr` nodes) on the `popcount32` probe:

| N steps | v4.29.0 nodes | v4.30.0 nodes |
|--:|--:|--:|
| 4 | 2 475 | 8 084 |
| 6 | 3 875 | 112 051 |
| 8 | 5 208 | 1 961 943 |

Linear (~660 nodes/step) before, ×4 per step after — so `sym_n` cannot work around this by calling `instantiateMVars` more or less often; the answer to my earlier question is that the tactic is fine.

### The metavariable graph

The pattern needs three ingredients, all provided by each `sym_n` step: a hypothesis introduced via `MVarId.assert` + `intro` (as done by `MVarId.note`, `replaceLocalDecl`, and `simp at h` — `stepiTac` and `explodeStep` do several per step), binder depth between steps (the `⟨sn, stepi_eq, h_run⟩` existential destructuring), and proof terms that reference the previous step's hypotheses several times (the step lemma applied to three effect proofs). A self-contained reproducer needing only core Lean:

```lean
import Lean
open Lean Elab Tactic in
/-- `note_ h := e` introduces `h` via `MVarId.note`, i.e. `assert` + `intro`,
like `replaceLocalDecl`, `simp at h`, and LNSym's `stepiTac` do.
(Unlike the `have` tactic, which binds `e` and is unaffected.) -/
elab "note_ " x:ident " := " t:term : tactic => withMainContext do
  let e ← elabTerm t none
  let g ← (← getMainGoal).note x.getId e
  replaceMainGoal [g.2]

axiom S : Type
axiom Rel : S → S → Prop
axiom ex : ∀ (s : S), ∃ t, Rel s t
axiom comb : ∀ {a b : S}, Rel a b → Rel a b → Rel a b → Rel a b

theorem test (s0 : S) : True := by
  obtain ⟨t, ht⟩ := ex s0
  note_ h := comb ht ht ht
  -- repeat the next two lines N times:
  obtain ⟨t, ht⟩ := ex t
  note_ h := comb h h h
  trivial
```

On v4.29 this takes 0.5s for any N; on v4.30 it runs out of memory (>16GB) at N=16.

When the final `instantiateMVars` runs, the metavariable context contains one long *chain* of delayed assignments (no metavariable is referenced twice — the graph shape is not the problem). Slightly simplified from the actual dump, one step of the chain looks like this (`?dᵢ [xs] ~> ?pᵢ` is a delayed assignment with abstracted fvars `xs` and pending mvar `?pᵢ`):

```
proof := ?d₁ (ex s0)
?d₁ [x]     ~> ?p₁ := Exists.casesOn x (fun t ht => ?d₂ t ht)     -- obtain
?d₂ [t, ht] ~> ?p₂ := ?d₃ (comb ht ht ht)                          -- note_ (assert)
?d₃ [h]     ~> ?p₃ := Exists.casesOn (ex t) (fun t' ht' => ?d₄ t' ht')  -- next obtain
?d₄ [t',ht']~> ?p₄ := ?d₅ (comb h h h)                             -- next note_
?d₅ [h']    ~> ?p₅ := ...
```

The load-bearing detail is the `assert` shape `?d₃ (comb ht ht ht)`: the hypothesis proof is an *argument* of a delayed application, and the abstracted fvar `h` occurs three times in the values further down the chain — at deeper binder depths, because of the `Exists.casesOn (fun t' ht' => …)` lambdas in between.

### Old vs. new instantiation of this graph

The pre-#12233 implementation resolved the chain inside out: each pending value was fully resolved to a *closed* term (over fvars) and written back, and `replace_fvars` then substituted `h ↦ comb ht ht ht` — a closed term, which can be inserted **by reference** at every occurrence, at any binder depth. Three references to `h` were three pointers to one object; the result stays linear. (The cost of this scheme is that each level's `replace_fvars` re-traverses everything below it — the quadratic behavior on long `intro`/`apply` chains that #12233 fixed.)

The fused implementation from #12233 instead carries one substitution through the whole chain in a single pass. By the time it crosses `?d₃`, the enclosing `fun t ht =>` binders have been entered and `ht` is mapped to a bound variable, so the substitution value for `h` is the *open* term `comb #0 #0 #0`. An open term cannot be inserted by reference at a different binder depth — each of the three occurrences of `h` (sitting under the next `fun t' ht' =>`) gets a fresh `lift_loose_bvars` copy. And because these substitution values have all enclosing substitutions already applied, step n's value physically embeds the copies made for step n−1's value, so lifting it copies those again: 3 copies per step compound to 3^N nodes. In LNSym each step references the previous step's effect hypotheses 3–4 times, hence the observed ×4/step growth and the OOM at 12 steps.

(The most-duplicated subterm in the N=6 probe, with 1609 physical copies, is exactly `stepiTac`'s composed proof `Eq.trans (Eq.symm #23) (popcount32_program.stepi_eq_0x4005b4 h_s0_program …)` — note the loose bvar `#23` pointing at the destructured `stepi_eq`.)

### The fix

#14514 keeps the fused pass for the argument shapes it was built for (bare bvars, closed terms, and open arguments whose fvar occurs at most once — none of which can compound), and falls back to the classic resolve-closed-then-`replace_fvars` scheme exactly for delayed applications whose argument is an open composite term with a multiply-referenced fvar. With the fix, the probe's instantiated proof term is back to linear size (matching v4.29 node for node), the full 27-step `popcount32` probe elaborates in ~1.2s (it needed >41GB before), and instruction-count A/B on Lean's elaboration benchmarks — including the ones #12233 was built for — is neutral within ±0.2%.

**Comment by nomeata** [comment]
@govereau I got a even better fix, one that I think is justifiable to merge. Claude claims it can fix your performance issues, but maybe you want to check https://github.com/leanprover/lean4/pull/14520 yourself, by using the  leanprover/lean4-pr-releases:pr-release-14 toolchain?

**Comment by govereau** [comment]
@nomeata I can confirm this fixes the issue.
The popcount32 test with `N=27`, which previously did not finish (due to OOM), not completes in less than 1 second!
Thanks a lot!

  | N  | v4.31.0 (stock) | PR #14520 (4.34-pre) |
  |----|-----------------|----------------------|
  | 8  | 4.97 ms         | 0.192 ms             |
  | 10 | 51 ms           | 0.248 ms             |
  | 12 | 611 ms          | 0.282 ms             |
  | 16 | 72.4 s          | 0.276 ms             |
  | 20 | (OOM)           | 0.326 ms             |
  | 27 | (OOM)           | 0.477 ms             |
